US05476933
Preparation of 7,8-dimethyl-3-hydroxy-6,7,8,9-tetrahydro-1H-1-benzazepine-2,5-dione (81).
To a stirred suspension of 7,8-dimethyl-3-methoxy-6,7,8,9-tetrahydro1H-1-benzazepine-2,5-dione (90.0 mg, 382 μmol) in dry CH2Cl2 (2 mL, distilled from CaH2) under N2, there was added a solution of BBr3 in CH2Cl2 (1.0 mL, 1M, Aldrich) in one portion over 5 seconds at rt. A green precipitate immediately formed. The reaction was allowed to stir under N2 at rt for 45 min. The reaction was added to saturated NaHCO3 (15 mL) and the resulting orange solution was allowed to stir for 15 min. The solution was extracted with CH2Cl2 (2×4 mL). The aqueous solution was acidified with coned HCl (pH 2), the resulting precipitate collected by filtration and washed to neutrality with water (6×2 mL). Crystallization from 95% EtOH yielded pale beige needles (56 mg, 67%, pure by 1H NMR, consists of a probable mixture of cis- and trans-isomers (85:15)); mp 242°-243° C. (dec.); 1H NMR (DMSO-d6) δ0.80 (t, J=7.5 Hz, 6H), 1.79 (m, 2H), 2.03 (dd, J=7.5, 17.7 Hz, 1H), 2.21 (dd, J=6.0, 18.0 Hz, 1H), 2.35 (dd, J=5.1, 17.7 Hz, 1H), 2.58, (dd, J=5.4, 18.0 Hz, 1H), 6.29 (s, 1H), 10.15 (bs, 1H), 10.82 (s, 1H), the minor isomer displays a methyl resonance at δ0.92 (t, J=5.7 Hz); IR (KBr) 3314 (m), 1676 (m), 1664 (m), 1613 (m), 1550 (s), Anal. Calcd for C12H15NO3 : C, 65.14, H, 6.83, N, 6.33. Found: C, 65.47; H, 6.87; N, 6.32.

reactant | 7,8-dimethyl-3-methoxy-6,7,8,9-tetrahydro1H-1-benzazepine-2,5-dione | 382 μmol, 90.0 mg | CC1C(CC2=C(C(C=C(C(N2)=O)OC)=O)C1)C | C13H17NO3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1M, 1.0 mL | C(Cl)Cl | CH2Cl2
product | 7,8-dimethyl-3-hydroxy-6,7,8,9-tetrahydro-1H-1-benzazepine-2,5-dione | CC1C(CC2=C(C(C=C(C(N2)=O)O)=O)C1)C | C12H15NO3
